US06399627B1
To a solution of (2E)-N-[4-(2-{[(tert-butyl)amino]sulfonyl}phenyl)phenyl]-3-(3-cyanophenyl)-3-(2-furyl)prop-2-enamide (176 mg, 0.336 mmol) in 10 ml 1:1 ethyl acetate:anhydrous methanol cooled to −78° C. was bubbled HCl gas until saturation was achieved. Reaction was allowed to warm to room temperature and stirred overnight. The reaction was then concentrated in vacuo and dried under hi vacuum. The dried methyl imidate residue was dissolved in 5 ml anhydrous methanol to which ammonium acetate (144 mg, 2 mmol) was added and the reaction heated to reflux for 2 hours. The reaction was concentrated, treated with trifluoroacetic acid (10 ml) for 2 hrs, concentrated and purified on a 2×25 cm Vydac C18 HPLC column to give 3-((1E)-1-(2-furyl)-2-{N-[4-(2-sulfamoylphenyl)phenyl]carbamoyl}vinyl)benzenecarboxamidine (60 mg, (37%) as a fluffy off-white powder after lyophilization. ES-MS (MA+H+): 487.15

reactant | (2E)-N-[4-(2-{[(tert-butyl)amino]sulfonyl}phenyl)phenyl]-3-(3-cyanophenyl)-3-(2-furyl)prop-2-enamide | 0.336 mmol, 176 mg | C(C)(C)(C)NS(=O)(=O)C1=C(C=CC=C1)C1=CC=C(C=C1)NC(\C=C(\C=1OC=CC1)/C1=CC(=CC=C1)C#N)=O | C30H27N3O4S
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | ammonium acetate | 2 mmol, 144 mg | C(C)(=O)[O-].[NH4+]
solvent | methanol | 5 ml | CO | CH4O
product | 3-((1E)-1-(2-furyl)-2-{N-[4-(2-sulfamoylphenyl)phenyl]carbamoyl}vinyl)benzenecarboxamidine | O1C(=CC=C1)\C(=C\C(NC1=CC=C(C=C1)C1=C(C=CC=C1)S(N)(=O)=O)=O)\C=1C=C(C=CC1)C(=N)N | C26H22N4O4S
